US08791147B2
Preparation of 6-(bromomethyl)-3-methoxy-2-(4-(trifluoromethyl)phenyl)pyridine
To a solution of 3-methoxy-6-methyl-2-(4-(trifluoromethyl)phenyl)pyridine (0.59 g, 2.2 mmol) in CCl4 (40 mL) was added NBS (440 mg, 2.5 mmol) and AIBN (33 mg, 0.20 mmol). The reaction mixture was heated to reflux for 13 h, diluted with EtOAc, washed with water (1×), brine (1×), dried over MgSO4, filtered through a pad (1.5 cm) of silica, and concentrated. The product 6-(bromomethyl)-3-methoxy-2-(4-(trifluoromethyl)phenyl)pyridine was used without further purification.

reactant | 3-methoxy-6-methyl-2-(4-(trifluoromethyl)phenyl)pyridine | 2.2 mmol, 0.59 g | COC=1C(=NC(=CC1)C)C1=CC=C(C=C1)C(F)(F)F | C14H12F3NO
reactant | NBS | 2.5 mmol, 440 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 0.20 mmol, 33 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | 40 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-(bromomethyl)-3-methoxy-2-(4-(trifluoromethyl)phenyl)pyridine | BrCC1=CC=C(C(=N1)C1=CC=C(C=C1)C(F)(F)F)OC | C14H11BrF3NO
